US06992087B2
Preparation of N-[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]-6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting N-(5-bromo-3,6-diethylpyrazin-2-yl)-6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine and, tris(2-chloro-4-methoxyphenyl)boroxin, and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 8.45, 7.61, 7.28, 7.19, 7.03, 6.90, 5.50, 5.31, 3.85, 3.14, 3.06, 2.87-2.78, 2.51, 1.52, 1.34, 1.17, 0.97-0.87; HRMS (FAB) calcd for C25H29ClN4O+H 437.2108, found 437.2103.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | N-(5-bromo-3,6-diethylpyrazin-2-yl)-6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | BrC=1N=C(C(=NC1CC)NC1C(CC=2C1=NC=CC2)CC)CC | C18H23BrN4
reactant | tris(2-chloro-4-methoxyphenyl)boroxin | ClC1=C(C=CC(=C1)OC)B1OB(OB(O1)C1=C(C=C(C=C1)OC)Cl)C1=C(C=C(C=C1)OC)Cl | C21H18B3Cl3O6
product | N-[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]-6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)NC1C(CC=2C1=NC=CC2)CC)CC | C25H29ClN4O
